US07504513B2
2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethylamide was prepared from 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester (30 mg, 0.07 mmol) and ethylamine in methanol (2 molar) as described above in the general amide formation procedure. Product was isolated by preparative HPLC: 16 mg, 56%. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.81 (s, 1H); 8.53 (t, 1H); 7.88-7.69 (m, 3H); 7.55-7.44 (m, 3H); 7.40 (s, 1H); 3.88 (s, 3H); 3.85 (s, 3H); 3.25 (q, 2H); 1.08 (t, 3H). MS M/z 409 (M+1).

reactant | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethyl ester | 0.07 mmol, 30 mg | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C21H19N3O4S
reactant | ethylamine | C(C)N | C2H7N
solvent | methanol | 2 molar | CO | CH4O
product | 2-(5,6-Dimethoxy-benzoimidazol-1-yl)-4-phenyl-thiazole-5-carboxylic acid ethylamide | C(C)NC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2 | C21H20N4O3S
